US08003675B2
3.0 g (16.3 mmol) of the above-produced (3,4-dichloroisothiazol-5-yl)methanol and 2.52 g (17.9 mmol) of benzoyl chloride were dissolved in 70 ml of toluene. Thereto was dropwise added, under ice-cooling, 1.98 g (19.6 mmol) of triethylamine. The mixture was stirred at room temperature for 3 hours. Water was added, followed by extraction with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The resulting crystals were washed with hexane to obtain 4.1 g (yield: 87%) of (3,4-dichloroisothiazol-5-yl)methyl benzoate as colorless crystals (melting point: 79 to 80° C.).

reactant | (3,4-dichloroisothiazol-5-yl)methanol | 16.3 mmol, 3.0 g | ClC1=NSC(=C1Cl)CO | C4H3Cl2NOS
reactant | benzoyl chloride | 17.9 mmol, 2.52 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylamine | 19.6 mmol, 1.98 g | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | (3,4-dichloroisothiazol-5-yl)methyl benzoate | 4.1 g, yield: 87% | C(C1=CC=CC=C1)(=O)OCC1=C(C(=NS1)Cl)Cl | C11H7Cl2NO2S
